US08791149B2
1-(3,6-diethynyl-9H-carbazol-9-yl)-3-(3-methoxyphenylamino) propan-2-ol
The title compound of Example 100 was prepared as follows. To a solution of 1-(3,6-bis((triisopropylsilyl)ethynyl)-9H-carbazol-9-yl)-3-(3-methoxyphenylamino)propan-2-ol (0.0152 g, 0.0215 mmol) in 200 μL anhydrous THF, a solution of TBAF in THF (1 M, 64.5 μL, 0.0645 mmol) and acetic acid (2.5 μL, 0.0430 mmol) were added. The mixture was sealed and stirred under N2 atmosphere at rt for 27 h until TLC showed the complete disappearance of starting material. The crude was diluted with 10 mL EtOAc and washed with saturated NaHCO3 (3×10) mL. The organic layer was dried over anhydrous Na2SO4 and evaporated to afford the crude product, which was subjected to silica gel chromatography using Hexanes/EtOAc to afford white solid as product (0.0061 g, yield 71.9%).

reactant | 1-(3,6-bis((triisopropylsilyl)ethynyl)-9H-carbazol-9-yl)-3-(3-methoxyphenylamino)propan-2-ol | 0.0215 mmol, 0.0152 g | C(C)(C)[Si](C(C)C)(C(C)C)C#CC=1C=CC=2N(C3=CC=C(C=C3C2C1)C#C[Si](C(C)C)(C(C)C)C(C)C)CC(CNC1=CC(=CC=C1)OC)O | C44H62N2O2Si2
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | acetic acid | 0.0430 mmol, 2.5 μL | C(C)(=O)O | C2H4O2
solvent | THF | 200 μL | C1CCOC1 | C4H8O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | THF | 0.0645 mmol, 1 M, 64.5 μL | C1CCOC1 | C4H8O
product | 1-(3,6-diethynyl-9H-carbazol-9-yl)-3-(3-methoxyphenylamino) propan-2-ol | yield 71.9% | C(#C)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C#C)CC(CNC1=CC(=CC=C1)OC)O | C26H22N2O2
